US05834401
A solution of ethyl aminoisobutyrate hydrochloride (10 g) in DMF (50 mL) was cooled to 0° C. To the solution were added potassium carbonate (18 g) and 1-chloro-3-iodopropane (12 g), and the mixture was stirred overnight at 0° C. to room temperature. Water was added to the reaction solution and the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to give 12.5 g of crude ethyl 2-(3-chloropropylamino)isobutyrate.

reactant | ethyl aminoisobutyrate hydrochloride | 10 g | Cl.NC(C(=O)OCC)(C)C
reactant | potassium carbonate | 18 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-3-iodopropane | 12 g | ClCCCI | C3H6ClI
reactant | Water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(3-chloropropylamino)isobutyrate | 12.5 g | ClCCCNC(C(=O)OCC)(C)C | C9H18ClNO2
